* C:\Users\aitor\OneDrive\Msc Thesis\Chap2 Voltage clamp\AlternativeTopology\cir\ParasiticOUT1.asc
R3 N006 0 {Rs}
R4 N006 N004 {Ree}
C3 N006 N004 {Ce}
I1 N006 0 I value=0 dc=0 dcvar=0 noise=0
C1 out 0 {Cload}
R1 N004 N003 {gain}
XU1 N001 N002 N004 0 CMOS18ND W={Was} L={Lin} ID={IDas}
XU2 N001 N001 0 0 CMOS18P W={Wcm} L={Lcm} ID={IDasPMOS}
XU3 N002 N001 0 0 CMOS18P W={Wcm} L={Lcm} ID={IDasPMOS}
XU4 N003 N002 0 0 CMOS18P W={Wout} L={Lout} ID={IDoutPMOS}
XU5 N003 0 0 0 CMOS18N W={Wb} L={Lb} ID={IDout}
XU6 NC_01 0 0 0 CMOS18N W={Wbcm} L={Lbcm} ID={2*IDas}
C2 N002 N005 {Cps}
R2 N005 N003 {Rps}
R5 N003 out {Rph1}
C4 N003 0 {C_par_OUT1}
.lib SLiCAP.lib
* +
* -
* -
* -
.backanno
.end
